US07820858B2
3-(4-tert-Butoxyphenyl)propionaldehyde (10b):
To a solution of 3-(4-tert-butoxyphenyl)-propan-1-ol S4 (2.39 g, 11.5 mmol) in anhydrous CH2Cl2 (115 mL) under N2 was added PCC (3.73 g, 17.3 mmol). The reaction flask was fitted with a reflux condenser, and the reaction mixture was stirred under N2 for 90 min. Anhydrous Et2O (120 mL) was added to the reaction mixture, and a brown solid precipitated out. The resulting slurry was filtered through a pad of silica gel to remove the solid. The brown gum left in the reaction flask washed with Et2O (3×50 mL). The combined filtrate was concentrated to give a yellow oil (1.54 g, 65% crude yield) that was carried on to the next step without further purification. TLC Rf=0.50 (Hex/EtOAc, v/v, 7:3). 1H NMR (300 MHz, CDCl3): 9.82 (t, J=1.5 Hz, 1H), 7.08 (m, 2H), 6.91 (m, 2H), 2.92 (t, J=7.5 Hz, 2H), 2.77 (t, J=7.5 Hz, 2H), 1.32 (s, 9H), FIG. 71. 13C NMR (75 MHz, CDCl3): 201.9, 154.0, 135.3, 128.8, 124.5, 45.6, 29.0, 27.7, FIG. 72. TOF-MS-ESI: [2M+Na]+ calculated 435.55 found 435.6.

reactant | 3-(4-tert-butoxyphenyl)-propan-1-ol | C(C)(C)(C)OC1=CC=C(C=C1)CCCO | C13H20O2
reactant | PCC | 17.3 mmol, 3.73 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | Et2O | 120 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 115 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-tert-Butoxyphenyl)propionaldehyde | C(C)(C)(C)OC1=CC=C(C=C1)CCC=O | C13H18O2
